US07943627B2
2-[2-(3,4,5-Trimethoxy-phenylamino)-pyrimidin-4-ylamino]-benzenesulfonamide
The title compound is prepared from 2-(2-chloro-pyrimidin-4-ylamino)-benzenesulfonamide as described in Example 1 using 3,4,5-Trimethoxy-phenylamine instead of 6-aminoindazole in step (b).

reactant | 2-(2-chloro-pyrimidin-4-ylamino)-benzenesulfonamide | ClC1=NC=CC(=N1)NC1=C(C=CC=C1)S(=O)(=O)N | C10H9ClN4O2S
reactant | 3,4,5-Trimethoxy-phenylamine | COC=1C=C(C=C(C1OC)OC)N | C9H13NO3
product | 2-[2-(3,4,5-Trimethoxy-phenylamino)-pyrimidin-4-ylamino]-benzenesulfonamide | COC=1C=C(C=C(C1OC)OC)NC1=NC=CC(=N1)NC1=C(C=CC=C1)S(=O)(=O)N | C19H21N5O5S
